US04182758
A solution of sodium hydroxide (1.6 g.) in water (30 ml.) was dropwise added over 5 minutes with stirring and ice-cooling to a suspension of ethyl 2-methoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetate (syn isomer) (5.14 g.) in water (60 ml.), and the resulting mixture was stirred for 1.5 hours at 10° to 20° C. The reaction mixture was adjusted to pH 7 with 10% hydrochloric acid and washed twice with ethyl acetate (100 ml.). To the aqueous layer was added ethyl acetate (200 ml.), and the resulting mixture was adjusted to pH 1 with 10% hydrochloric acid and extracted with the ethyl acetate. The aqueous layer was further extracted with ethyl acetate (100 ml.). Both ethyl acetate extracts were combined, washed with a sodium chloride aqueous solution (100 ml.) and dried over magnesium sulfate. The solvent was distilled off to give 2-methoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetic acid (syn isomer) (1.85 g.), mp 152° C. (dec.), which was recrystallized from ethyl acetate to give a pure compound, mp 167° C. (dec.).

reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
reactant | ethyl 2-methoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetate | 5.14 g | CON=C(C(=O)OCC)C=1N=C(SC1)NC=O | C9H11N3O4S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | water | 60 ml | O | H2O
product | 2-methoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetic acid | 1.85 g | CON=C(C(=O)O)C=1N=C(SC1)NC=O | C7H7N3O4S
